US04202895
To a mixture of 2.8 g of 2-(2,2,2-trifluoroethylamino)-benzophenonimine, 2 ml. of ethyl chlorocarbonate and 20 ml. of benzene was added dropwise 2.0 g of triethylamine, and the mixture was heated under reflux for 3 hours. After cooling, the reaction mixture was washed with water and dried over anhydrous sodium sulfate. Then, the solvent was removed under reduced pressure. The residue was absorbed on a silica gel column, eluted with chloroform to obtain 1-(2,2,2-trifluoroethyl)-4-phenyl-2(1H)-quinazolinone, which was recrystallized from ethanol to give colorless crystals, m.p. 181.5°-182.0° C.

reactant | 2-(2,2,2-trifluoroethylamino)-benzophenonimine | 2.8 g | FC(CNC1=C(C(C2=CC=CC=C2)=N)C=CC=C1)(F)F | C15H13F3N2
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
product | 1-(2,2,2-trifluoroethyl)-4-phenyl-2(1H)-quinazolinone | FC(CN1C(N=C(C2=CC=CC=C12)C1=CC=CC=C1)=O)(F)F | C16H11F3N2O
